US05629343
2-Methylene-4-phenylbutyric acid, ethyl ester
Monoethyl 2-[2-(phenyl)ethyl]malonic acid (47.2 g, 200 mole) was added to 40 mL of pyridine in a 250 mL round bottomed flask fitted with a Teflon coated stirring bar. Piperidine (3 mL) and paraformaldehyde (8.4 g, 280 mmole) were added to the flask and the flask was heated to 55°-60° C. until gas evolution ceased. TLC indicated that no starting material remained. The solution was worked up by removing the solvent under reduced pressure. Water (50 mL ) and enough 12N HCl was added to the flask to acidify the mixture (pH<3). The mixture was extracted with ether (3×50 mL) and back extracted with brine. The solution was dried over MgSO4 and filtered. The reaction mixture was shown to be clean by NMR and TLC and used without further purification. Recovered 36.3 g material (89% yield).

reactant | Monoethyl 2-[2-(phenyl)ethyl]malonic acid | 200 mole, 47.2 g | C(C)C(C(=O)O)(C(=O)O)CCC1=CC=CC=C1 | C13H16O4
reactant | Piperidine | 3 mL | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 280 mmole, 8.4 g | C=O | CH2O
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 2-Methylene-4-phenylbutyric acid, ethyl ester | 36.3 g, 89% yield | C=C(C(=O)OCC)CCC1=CC=CC=C1 | C13H16O2
